US04866151
2-(5,5-Dimethyl-1,3-dioxan-2-yl)ethoxyethyl acrylate (VII)
A mixture of hydroxyethyl acrylate (11.6 g), an equivalent amount of 2-ethylenyl-5,5-dimethyl-1,3-dioxane (EDD) (14.2 g), and a catalytic amount of p-toluenesulfonic acid (100 mg) was heated at 65° C. overnight. Gas chromatography showed that reaction occurred. The unreacted starting materials were removed at 40° C. under 0.05 mm Hg.

reactant | hydroxyethyl acrylate | 11.6 g | C(C=C)(=O)OCCO | C5H8O3
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-(5,5-Dimethyl-1,3-dioxan-2-yl)ethoxyethyl acrylate | C(C=C)(=O)OCCOCCC1OCC(CO1)(C)C | C13H22O5
